US07291635B2
To a suspension of the title B compound in Example 9, 2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (13.87 g, 48.4 mmol) and 4-bromomethylbenzoic acid (10.42 g, 48.4 mmol) in CH2Cl2 (150 mL) is added DBU (14.5 mL, 96.9 mmol) at once and the mixture is stirred at RT overnight. The reaction mixture is washed two times with 1N aqueous HCl, one time with brine, then dried over anhydrous MgSO4 and concentrated to a small volume to crystallize the product. The solid is collected by filtration, washed with ethyl ether and dried under high vacuum to afford 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid: mp=175-177° C.; [M−1]−=419.

reactant | 2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 48.4 mmol, 13.87 g | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | 4-bromomethylbenzoic acid | 48.4 mmol, 10.42 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | DBU | 96.9 mmol, 14.5 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid | COC1=C(CN2C(CN(S2(=O)=O)CC2=CC=C(C(=O)O)C=C2)=O)C=CC(=C1)OC | C19H20N2O7S
